US07396844B1
Synthesis of methyl 4-(4-methoxybenzoyl)benzoate
2.1 g (16 mmol) of aluminum chloride and 2.4 g (12 mmol) of 4-chlorocarbonyl benzoic acid monomethyl ester were stirred in 15 ml of dichloromethane under stirring under cooling with ice. 1.0 g (9.3 mmol) of anisole was added to the resultant mixture. Two hours after, the temperature was elevated to room temperature, and the mixture was stirred overnight. After the treatment with dichloromethane as the extractant in an ordinary manner, the solvent was distilled off. The residue was purified by the silica gel column chromatography to obtain the title compound.

reactant | aluminum chloride | 16 mmol, 2.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chlorocarbonyl benzoic acid monomethyl ester | 12 mmol, 2.4 g | COC(C1=CC=C(C=C1)C(=O)Cl)=O | C9H7ClO3
reactant | anisole | 9.3 mmol, 1.0 g | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | methyl 4-(4-methoxybenzoyl)benzoate | COC1=CC=C(C(=O)C2=CC=C(C(=O)OC)C=C2)C=C1 | C16H14O4
